US04559403
A slurry of 41.1 g of 6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-4-isoquinolinecarboxylic acid ethyl ester in 250 ml of dry tetrahydrofuran was chilled to 0° and treated dropwise over 30 minutes with 62.8 ml of 3.5 M sodium bis-(2-methoxyethoxy)aluminum hydride in toluene solution. After stirring at 0° for three hours, 60 ml of saturated aqueous sodium sulfate solution was cautiously added and the mixture was stirred until granular. The supernatant solution was decanted, the residue was extracted with warm methylene chloride, and the combined organic solutions were evaporated in vacuo. The residue was dissolved in methylene chloride, washed with water, dried over sodium sulfate, and concentrated. Crystallization from methylene chloride/ethyl acetate provided 26.7 g of 6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-4-isoquinoline methanol as a white solid, mp 140°-146°.

reactant | 6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-4-isoquinolinecarboxylic acid ethyl ester | 41.1 g | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=C(C=C1)OC)OC | C23H25NO6
reactant | sodium bis-(2-methoxyethoxy)aluminum hydride | 3.5 M, 62.8 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | sodium sulfate | 60 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-4-isoquinoline methanol | 26.7 g | COC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CO | C21H23NO5
